US07863302B2
6-Methoxy-benzofuran-3-carboxylic acid ethyl ester
In a steel high-pressure reaction vessel, a solution of trifluoro-methanesulfonic acid 6-methoxy-benzofuran-3-yl ester (9.10 g, 30.7 mmol) in dimethylformamide (120 mL) is bubbled with carbon monoxide gas for 10 minutes. Ethanol (60 mL), triethylamine (9.25 mL), Pd(OAc)2 (0.20 g), bis-(1,3-diphenylphosphino)propane (0.38 g) are added to the reaction mixture. The mixture vessel is sealed, charged with carbon monoxide (10 g, 30 psi), and heated to 80° C. for 4.5 hours. The mixture is concentrated under reduced pressure and diluted with water (300 mL), and extracted with EtOAc (150 mL×2). The combined organic layers are dried over Na2SO4, filtered, and concentrated under reduced pressure. The crude product is purified via flash chromatography eluting with 15% EtOAc/Hexanes. The appropriate fractions are combined and concentrated under reduced pressure to afford the title compound (5.50 g, 81%). 1H NMR (400 MHz, CDCl3): δ 8.16 (s, 1H), 7.88 (d, 1H), 7.01 (s, 1H), 6.96 (d, 1H), 4.38 (q, 2H), 3.81 (s, 3H), 1.40 (t, 3H).

reactant | trifluoro-methanesulfonic acid 6-methoxy-benzofuran-3-yl ester | 30.7 mmol, 9.10 g | COC1=CC2=C(C(=CO2)OS(=O)(=O)C(F)(F)F)C=C1 | C10H7F3O5S
reactant | carbon monoxide | [C]=O | CO
reactant | Ethanol | 60 mL | C(C)O | C2H6O
reactant | triethylamine | 9.25 mL | C(C)N(CC)CC | C6H15N
reactant | carbon monoxide | 10 g | [C]=O | CO
solvent | dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
catalyst | Pd(OAc)2 | 0.20 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 6-Methoxy-benzofuran-3-carboxylic acid ethyl ester | 5.50 g, 81% | C(C)OC(=O)C1=COC2=C1C=CC(=C2)OC | C12H12O4
